US05068365
Preparation of N-(5-allyloxy-4-chloro-2-fluorophenyl)-2-ethoxycarbonyl cyclohexyl carboxylic amide (Compound No. 4)
In 20 ml of methylene chloride, 1.20 g of 1,2,3,4,5,6-hexahydrophthalic acid monoethyl ester was dissolved. To this solution 0.47 g of pyridine and 0.71 g of thionyl chloride were added and the resulting mixture was stirred at room temperature. Two hour later, 1 20 g of 5-allyloxy-4-chloro-2-fluoroaniline and 0.61 g of triethylamine were added and the resulting mixture was stirred at room temperature for 5 hours. After completion of the reaction, 10% hydrochloric acid was added to the reaction mixture to make the same acidic and was extracted twice with methylene chloride. The extract was washed with saturated aqueous sodium hydrogen carbonate and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate =5/1 (v/v)) to obtain 1.5 g of light brown crystal.

reactant | 1,2,3,4,5,6-hexahydrophthalic acid monoethyl ester | 1.20 g | C(C)OC(C1C(C(=O)O)CCCC1)=O | C10H16O4
reactant | thionyl chloride | 0.71 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-allyloxy-4-chloro-2-fluoroaniline | C(C=C)OC=1C(=CC(=C(N)C1)F)Cl | C9H9ClFNO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.61 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | 0.47 g | N1=CC=CC=C1 | C5H5N
product | N-(5-allyloxy-4-chloro-2-fluorophenyl)-2-ethoxycarbonyl cyclohexyl carboxylic amide | 1.5 g | C(C=C)OC=1C(=CC(=C(C1)NC(=O)C1C(CCCC1)C(=O)OCC)F)Cl | C19H23ClFNO4
